US06194574B1
C. 4-Hydroxy-2-methyl-10-(2,4,6-trimethylphenyl)pyrido[2,3-b]-indolizine
To a solution of 2-amino-3-ethoxycarbonyl-1-(2,4,6-trimethylphenyl)-indolizine (19.2 g; 59.6 mmol) in 2,2-dimethoxypropane (100 mL) is added dl-camphorsulfonic acid (0.2 g). The mixture is stirred at reflux for 30 minutes and then distilled slowly to remove ca. 60 mL of volatiles over a 30-minute period. The solution is cooled to ambient temperature under an inert atmosphere, diluted with anhydrous toluene (50 mL), and concentrated in vacuo. The residue is dissolved in toluene (50 mL) and to the stirred solution is then added a 0.5M solution of potassium bis(trimethylsilyl)amide in toluene (250 mL; 125 mmol) dropwise over a 1-hour period. After the addition is complete, the mixture is further stirred for 2 hours at room temperature before being concentrated in vacuo to a small volume and then diluted with aqueous ammonium chloride. The resulting emulsion-like biphasic mixture is suction-filtered and washed succesively with water, methanol, and ethyl ether. Air- and vacuum drying provides 10.1 g of the title compound as a pale yellow solid (54%).

reactant | 2-amino-3-ethoxycarbonyl-1-(2,4,6-trimethylphenyl)-indolizine | 59.6 mmol, 19.2 g | NC=1C(=C2C=CC=CN2C1C(=O)OCC)C1=C(C=C(C=C1C)C)C | C20H22N2O2
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 125 mmol, 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | 2,2-dimethoxypropane | 100 mL | COC(C)(C)OC | C5H12O2
catalyst | dl-camphorsulfonic acid | 0.2 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
product | 4-Hydroxy-2-methyl-10-(2,4,6-trimethylphenyl)pyrido[2,3-b]-indolizine | 10.1 g, 54% | OC1=CC(=NC=2C(=C3C=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C21H20N2O
